US07618960B2
Synthesis of methyl 4-[formyl-(2-oxopropyl)amino]-3-methoxybenzoate
Chloroacetone (84.5 mL) was added dropwise to a mixture of methyl 4-formylamino-3-methoxybenzoate (111 g), cesium carbonate (346 g), and potassium iodide (8.78 g) in DMF (497 mL) at room temperature, and the reaction solution was stirred for three hours. Cesium carbonate (173 g) and chloroacetone (42.0 mL) were added to the reaction solution, which was then stirred at room temperature for two hours. Ice water and ethyl acetate were added to the reaction solution, and the organic layer was separated. Ethyl acetate was added to the aqueous layer, and the organic layer was separated. The organic layers were combined and washed with water and brine in this order. The resulting organic layers were dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was diluted with toluene, and the solution was concentrated under reduced pressure. tert-Butyl methyl ether and heptane were added to the resulting residue, and the precipitated solid was collected by filtration and washed with a solution of 50% tert-butyl methyl ether in heptane. The resulting solid was air-dried overnight to obtain 118 g of the title compound.

reactant | Chloroacetone | 84.5 mL | ClCC(C)=O | C3H5ClO
reactant | methyl 4-formylamino-3-methoxybenzoate | 111 g | C(=O)NC1=C(C=C(C(=O)OC)C=C1)OC | C10H11NO4
reactant | cesium carbonate | 346 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 8.78 g | [I-].[K+]
reactant | Cesium carbonate | 173 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroacetone | 42.0 mL | ClCC(C)=O | C3H5ClO
solvent | DMF | 497 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[formyl-(2-oxopropyl)amino]-3-methoxybenzoate | 118 g | C(=O)N(C1=C(C=C(C(=O)OC)C=C1)OC)CC(C)=O | C13H15NO5
